US09289430B2
2-amino-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)-2H-1,2,4-triazol-3-yl)benzamide
To a solution of 2-nitro-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)-2H-1,2,4-triazol-3-yl)benzamide (130 mg, 0.28 mmol, 1.00 equiv) in methanol (3 mL) was added Pd/C (130 mg, 10%) and the suspension stirred under an atmosphere of hydrogen for 2 h at room temperature. The solids were filtered out and the resulting mixture was concentrated under vacuum to yield 50 mg (41%) of product as a yellow solid.

reactant | 2-nitro-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)-2H-1,2,4-triazol-3-yl)benzamide | 0.28 mmol, 130 mg, 1.00 equiv | [N+](=O)([O-])C1=C(C(=O)NC=2NN=C(N2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C21H19F3N6O3
solvent | methanol | 3 mL | CO | CH4O
catalyst | Pd/C | 130 mg | [Pd] | Pd
product | 2-amino-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)-2H-1,2,4-triazol-3-yl)benzamide | 50 mg, 41% | NC1=C(C(=O)NC=2NN=C(N2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C21H21F3N6O
